US04412083
PREPARATION OF 8-HYDROXY-5-ISOPROPYL-8-METHYL-NON-6-EN-2-ONE
Into a 12-liter reaction vessel equipped with stirrer, thermometer, condenser, gas addition tube (straight, not a dispersion tube), heating mantle and nitrogen blanket apparatus, is placed 4.5 liters of diethylether anhydrous and 120 grams (17.4 moles) of 4-16 mesh lithium shot. The contents of the flask are stirred and refluxed for one hour in order to activate the lithium. The heating mantle is removed and the contents of the flask are allowed to cool to room temperature. 828 grams (8.7 moles) of methyl bromide gas is then added to the reaction mass over a six hour period at a rate such that little gas escapes from the top of the condenser. The reaction is exothermic and will cause the solvent to reflux. When the addition of the methyl bromide is complete and the lithium has dissolved, one liter of toluene is added to the reaction mass. The resulting mixture is cooled to 0°-5° C. and the gas addition tube is replaced by an addition funnel. A toluene solution containing 470 grams of 4-isopropyl-7-oxo- 5-octenenitrile prepared according to Example IV is added dropwise to the reaction mass over a one hour period while maintaining the reaction mass at 0°-5° C. When addition is complete, the reaction mass is allowed to warm to room temperature. A GLC sample at this point shows no starting material and no nitrile present. When the reaction is complete, 800 ml of saturated ammonium chloride solution is added to the reaction mass with stirring. The resulting mixture is stirred for one hour and the organic layer is separated from the aqueous layer. The diethylether solvent is stripped from the reaction mass and the reaction mass is distilled through an 8" stone-packed column yielding the following fractions:

reactant | lithium | [Li] | Li
reactant | methyl bromide | 8.7 moles, 828 grams | CBr | CH3Br
reactant | 4-isopropyl-7-oxo- 5-octenenitrile | 470 grams | C(C)(C)C(CCC#N)C=CC(C)=O | C11H17NO
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
reactant | diethylether | 4.5 liters | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | one liter | C1(=CC=CC=C1)C | C7H8
product | 8-HYDROXY-5-ISOPROPYL-8-METHYL-NON-6-EN-2-ONE | OC(C=CC(CCC(C)=O)C(C)C)(C)C | C13H24O2
